US07763608B2
5-chloro-N-((2-(methylthio)-1-(4-(2-oxopyridin-1(2H)-yl)phenyl)-1H-imidazol-4-yl)methyl)thiophene-2-carboxamide (55)
A mixture of 5-chloro-N-((1-(4-iodophenyl)-2-(methylthio)-1H-imidazol-4-yl)methyl)thiophene-2-carboxamide (56 mg, 0.11 mmol), 2-hydroxypyridine (30 mg, 0.32 mmol), 8-hydroxyquinoline (8 mg, 0.055 mmol) and K2CO3 (100 mg, 0.72 mmol) in DMSO (1 mL) was degassed with Ar before being charged with CuI (15 mg, 0.079 mmol). The mixture in a sealed tube was heated at 130° C. overnight. It was then purified by HPLC to give the titled compound (22 mg). MS 457.0 and 459.0 (M+H, Cl pattern).

reactant | 5-chloro-N-((1-(4-iodophenyl)-2-(methylthio)-1H-imidazol-4-yl)methyl)thiophene-2-carboxamide | 0.11 mmol, 56 mg | ClC1=CC=C(S1)C(=O)NCC=1N=C(N(C1)C1=CC=C(C=C1)I)SC | C16H13ClIN3OS2
reactant | 2-hydroxypyridine | 0.32 mmol, 30 mg | OC1=NC=CC=C1 | C5H5NO
reactant | 8-hydroxyquinoline | 0.055 mmol, 8 mg | OC=1C=CC=C2C=CC=NC12 | C9H7NO
reactant | K2CO3 | 0.72 mmol, 100 mg | C(=O)([O-])[O-].[K+].[K+]
solvent | DMSO | 1 mL | CS(=O)C | C2H6OS
catalyst | CuI | 0.079 mmol, 15 mg | [Cu]I
product | 5-chloro-N-((2-(methylthio)-1-(4-(2-oxopyridin-1(2H)-yl)phenyl)-1H-imidazol-4-yl)methyl)thiophene-2-carboxamide | 22 mg | ClC1=CC=C(S1)C(=O)NCC=1N=C(N(C1)C1=CC=C(C=C1)N1C(C=CC=C1)=O)SC | C21H17ClN4O2S2
